US05587379
Step B Synthesis of 2,4,6-triamino-5-[3-(naphth-1-yl)propyl]pyrimidine (Compound 48)
A solution of sodium ethoxide, prepared from 0.04: gram (0.002 mole) of sodium metal in 50 mL of ethanol, was stirred, and 0.2 gram (0.002 mole) of guanidine hydrochloride was added in one portion. The reaction mixture was stirred for 15 minutes and filtered to remove a precipitate. The filtrate was stirred, and 0.4 gram (0.002 mole) of 2-cyano-5-(naphth-1-yl)pentanenitrile was added in one portion. Upon completion of addition, the reaction mixture was heated at reflux for about 16 hours. After this time the reaction mixture was concentrated under reduced pressure to a residue. The residue was triturated with warm water, yielding, when dried, 0.4 gram of 2,4,6-triamino-5-[3-(naphth-1-yl)propyl]-pyrimidine, mp 181°-183° C., (dec.). The NMR spectrum was consistent with the proposed structure.

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | sodium | 0.002 mole | [Na] | Na
reactant | guanidine hydrochloride | 0.002 mole, 0.2 gram | Cl.NC(=N)N
reactant | 2-cyano-5-(naphth-1-yl)pentanenitrile | 0.002 mole, 0.4 gram | C(#N)C(C#N)CCCC1=CC=CC2=CC=CC=C12 | C16H14N2
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2,4,6-triamino-5-[3-(naphth-1-yl)propyl]pyrimidine | NC1=NC(=C(C(=N1)N)CCCC1=CC=CC2=CC=CC=C12)N | C17H19N5
